US08193164B2
Intermediate EC (1R,2S,3R,5S)-3-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-ethyl-pyrazol-1-yl)-cyclopentane-1,2-diol
The title compound is prepared analogously to 1R,2S,3R,5S)-3-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(5-ethyl-tetrazol-2-yl)-cyclopentane-1,2-diol (Intermediate EA) by replacing 5-ethyltetrazole with 4-ethyl-1H-pyrazole. MS (ES+) m/e 544.23 (MH+)

reactant | 3-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(5-ethyl-tetrazol-2-yl)-cyclopentane-1,2-diol | ClC1=NC(=C2N=CN(C2=N1)C1C(C(C(C1)N1N=C(N=N1)CC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28ClN9O2
reactant | 4-ethyl-1H-pyrazole | C(C)C=1C=NNC1 | C5H8N2
product | (1R,2S,3R,5S)-3-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-ethyl-pyrazol-1-yl)-cyclopentane-1,2-diol | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)CC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30ClN7O2
